US05840732
Synthesis of 3-[4-(2-aminopyridin-3-yloxy)butyl]-thiazolidine-2,4-dione
Using 10.06 g (50 mmol) of 2-amino-3-(4-chlorobutyloxy)pyridine, 6.97 g (50 mmol) of thiazolidine-2,4-dione sodium salt and 7.49 g (50 mmol) of sodium iodide, the same procedure as in Reference Example 11 was followed, to yield 9.53 g (67.8%, light yellow oily substance) of the desired product.

reactant | 2-amino-3-(4-chlorobutyloxy)pyridine | 50 mmol, 10.06 g | NC1=NC=CC=C1OCCCCCl | C9H13ClN2O
reactant | thiazolidine-2,4-dione sodium salt | 50 mmol, 6.97 g | [Na].S1C(NC(C1)=O)=O
reactant | sodium iodide | 50 mmol, 7.49 g | [I-].[Na+]
product | 3-[4-(2-aminopyridin-3-yloxy)butyl]-thiazolidine-2,4-dione | NC1=NC=CC=C1OCCCCN1C(SCC1=O)=O | C12H15N3O3S
